US08440652B2
General method C was applied to 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1H-benzo[c]azepin-1-one (95 mg, 0.33 mmol) and 4-(5-amino-6-bromopyrazin-2-yl)-N-ethyl-N-methylbenzenesulfonamide (108 mg, 0.29 mmol) to provide 4-(5-amino-6-(1-oxo-2,3,4,5-tetrahydro-1H-benzo[c]azepin-7-yl)pyrazin-2-yl)-N-ethyl-N-methylbenzenesulfonamide (33 mg, 22% yield) after purification by preparatory HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.70 (s, 1H), 8.22 (d, J=8.5 Hz, 2H), 8.12 (t, J=5.8 Hz, 1H), 7.80 (d, J=8.5 Hz, 2H), 7.71 (dd, J=8.0, 1.5 Hz, 1H), 7.62-7.66 (m, 2H), 6.66 (br. s, 2 H), 2.93-3.09 (m, 4H), 2.83 (t, J=1.0 Hz, 2H), 2.67 (s, 3H), 1.94 (dd, J=12.3, 6.0 Hz, 2H), 1.03 (t, J=7.2 Hz, 3H); MS (EI) m/z=452.5 [M+1]+.

reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1H-benzo[c]azepin-1-one | 0.33 mmol, 95 mg | CC1(OB(OC1(C)C)C1=CC2=C(C(NCCC2)=O)C=C1)C | C16H22BNO3
reactant | 4-(5-amino-6-bromopyrazin-2-yl)-N-ethyl-N-methylbenzenesulfonamide | 0.29 mmol, 108 mg | NC=1N=CC(=NC1Br)C1=CC=C(C=C1)S(=O)(=O)N(C)CC | C13H15BrN4O2S
product | 4-(5-amino-6-(1-oxo-2,3,4,5-tetrahydro-1H-benzo[c]azepin-7-yl)pyrazin-2-yl)-N-ethyl-N-methylbenzenesulfonamide | 33 mg, 22% yield | NC=1N=CC(=NC1C1=CC2=C(C(NCCC2)=O)C=C1)C1=CC=C(C=C1)S(=O)(=O)N(C)CC | C23H25N5O3S
